US09056874B2
a) (±)-2-(2,2,2-Trifluoro-1-(5-methoxy-7-methyl-1H-indol-4-yl)-1-(methylamino)ethyl)-1H-benzo[d]imidazole-5-carbonitrile
To a solution of (±)-tert-butyl 4-(1-(5-cyano-1H-benzo[d]imidazol-2-yl)-2,2,2-trifluoro-1-(methylamino)ethyl)-5-methoxy-7-methyl-1H-indole-1-carboxylate (0.87 g, 1.69 mmol) in MeOH (16.94 mL) at room temperature, Cs2CO3 (2.76 g, 8.47 mmol) was added and the reaction was stirred at 60° C. After 2.5 hours the reaction was cooled to room temperature, quenched with aq. NH4Cl. The layers were separated and the aqueous layer was extracted with EtOAc. The organic layers were combined, dried over MgSO4, filtered and concentrated. The resulting residue was purified by flash chromatography (0-100% EtOAc in heptanes) to provide the title compound. 1H NMR (400 MHz, DMSO-d6 with about 5 μL TFA) δ ppm 11.14 (br. s., 1H) 8.21 (br. s., 1H) 7.72 (d, J=8.46 Hz, 1H) 7.64 (dd, J=8.40, 1.45 Hz, 1H) 7.18 (t, J=2.84 Hz, 1H) 6.89 (s, 1H) 5.56 (br. s., 1H) 3.57 (br. s., 3H) 2.31 (s, 3H). HRMS calcd. for C21H18F3N5O (M+H)+ 414.1542. found 414.1542.

reactant | (±)-tert-butyl 4-(1-(5-cyano-1H-benzo[d]imidazol-2-yl)-2,2,2-trifluoro-1-(methylamino)ethyl)-5-methoxy-7-methyl-1H-indole-1-carboxylate | 1.69 mmol, 0.87 g | C(#N)C1=CC2=C(NC(=N2)C(C(F)(F)F)(NC)C2=C3C=CN(C3=C(C=C2OC)C)C(=O)OC(C)(C)C)C=C1 | C26H26F3N5O3
reactant | Cs2CO3 | 8.47 mmol, 2.76 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | MeOH | 16.94 mL | CO | CH4O
product | (±)-2-(2,2,2-Trifluoro-1-(5-methoxy-7-methyl-1H-indol-4-yl)-1-(methylamino)ethyl)-1H-benzo[d]imidazole-5-carbonitrile | FC(C(NC)(C1=C2C=CNC2=C(C=C1OC)C)C1=NC2=C(N1)C=CC(=C2)C#N)(F)F | C21H18F3N5O
